US06599978B1
After the inner temperature of the reactor had descended to 60° C., an aqueous solution prepared by dissolving 0.4 part of Rongalit in 10 parts of distilled water was added, and then a liquid mixture of 6.3 parts of acrylonitrile, 18.7 parts of styrene and 0.23 part of cumene hydroperoxide was dropped into the reactor over a period of 2 hours to make progress a polymerization reaction. After the dropping, the resulting mixture was maintained in that state at 60° C. for one hour. Then, an aqueous solution prepared by dissolving 0.0002 part of ferrous sulfate, 0.0006 part of disodium ethylenediaminetetraacetate and 0.23 part of Rongalit in 10 parts of distilled water was added, and thereafter a liquid mixture of 6.3 parts of acrylonitrile, 18.7 parts of styrene and 0.23 part of cumene hydroperoxide was dropwise added over a period of 2 hours to make progress a polymerization reaction. After the dropping, temperature of the resulting mixture was kept at 60° C. for one hour, and then the mixture was cooled. Thus, a latex of a graft copolymer in which acrylonitrile/styrene was graft-polymerized onto a composite rubber consisting of particle-enlarged polybutadiene and a butyl acrylate rubber was obtained.

reactant | Rongalit | C(O)S(=O)[O-].[Na+]
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | cumene hydroperoxide | [O-]O.C1(=CC=CC=C1)C(C)C
reactant | disodium ethylenediaminetetraacetate | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O.[Na+].[Na+]
reactant | acrylonitrile styrene | C(C=C)#N.C=CC1=CC=CC=C1
solvent | water | O | H2O
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
